.model 2N5551 NPN
+ IS=2.04174E-14      BF=122.7            NF=1                BR=17.075
+ NR=1                ISE=5.7544E-13      NE=2                ISC=2.29087E-11
+ NC=1.5              VAF=176.831         VAR=35.3            IKF=0.144627
+ IKR=0.0158489       RB=125              RBM=8.092           IRB=1.12202E-7
+ RE=0.14             RC=1.8              CJE=2.450889E-11    VJE=0.7175263
+ MJE=0.3413777       FC=0.5              CJC=5.03462E-12     VJC=0.5
+ MJC=0.3226407       XTB=1.2776          EG=1.2222           XTI=3
+ TF=1.73E-11

.model 2N5401 PNP
+ IS=21.48F           XTI=3               EG=1.11             VAF=100
+ NE=1.375            ISE=21.48F          IKF=.1848           XTB=1.5
+ BR=3.661            NC=2 ISC=0          IKR=0 RC=1.6        CJC=17.63P
+ MJC=.5312           VJC=.75             FC=.5               CJE=73.39P
+ MJE=.3777           VJE=.75             TR=1.476N           TF=641.9P
+ ITF=0               VTF=0               XTF=0               RB=10
+ BF=132.1

.model 2SA1943 PNP
+ IS=3.5476E-11       BF=159.9            NF=1.0              BR=25.75
+ NR=1.011            ISE=2.5119E-10      NE=2                ISC=7.9433E-11
+ NC=1.37             VAF=60.0            VAR=11.07           IKF=2.8370
+ IKR=0.3548          RB=2.74             RBM=0.0381          IRB=3.6308E-3
+ RE=0.06             RC=0.01             CJE=4.1783E-9       VJE=0.6354
+ MJE=0.3374          FC=0.5              CJC=1.1383E-9       VJC=0.5
+ MJC=0.3699          XCJC=0.7624         XTB=1.5306          EG=1.1751
+ XTI=3.0

.model 2SC5200 NPN
+ IS=4.3031E-12       BF=152.1            NF=1.0              BR=6.155
+ NR=1.028            ISE=1.3924E-11      NE=1.5              ISC=2.7542E-11
+ NC=1.95             VAF=60.0            VAR=6.51            IKF=10.8637
+ IKR=0.1585          RB=2.47             RBM=0.02            IRB=0.08
+ RE=0.04             RC=0.015            CJE=5.8111E-9       VJE=0.6506
+ MJE=0.3357          FC=0.5              CJC=6.4394E-10      VJC=0.5
+ MJC=0.3966          XCJC=0.7624         XTB=1.0445          EG=1.1663
+ XTI=3.0

.MODEL MJE15032 NPN
+ IS=3.7344e-10       BF=86.8313          NF=1.23974          VAF=31.5491
+ IKF=9.1678          ISE=9.2499e-12      NE=3.28127          BR=5.59346
+ NR=1.33161          VAR=2.1791          IKR=5.15023         ISC=4e-13
+ NC=4                RB=9.54492          IRB=0.1             RBM=0.1
+ RE=0.000568481      RC=0.0931741        XTB=0.737036        XTI=1.04983
+ EG=1.206            CJE=3.05969e-09     VJE=0.648491        MJE=0.352663
+ TF=4.94819e-09      XTF=1.50001         VTF=1.0001          ITF=0.999982
+ CJC=3.00108e-10     VJC=0.600021        MJC=0.40991         XCJC=0.8
+ FC=0.534651         CJS=0               VJS=0.75            MJS=0.5
+ TR=1e-07            PTF=0               KF=0                AF=1

.MODEL MJE15033 PNP
+ IS=7.51228e-10      BF=134.35           NF=1.25737          VAF=12.5778
+ IKF=1.88497         ISE=7.74267e-12     NE=3.34528          BR=5.14173
+ NR=1.47488          VAR=1.4505          IKR=7.47186         ISC=3.25e-13
+ NC=4                RB=4.37743          IRB=0.1             RBM=0.1
+ RE=0.000332989      RC=0.381218         XTB=0.223027        XTI=1
+ EG=1.05             CJE=3.06005e-09     VJE=0.64838         MJE=0.352991
+ TF=4.78203e-09      XTF=1.50001         VTF=1.00006         ITF=0.999988
+ CJC=3.00101e-10     VJC=0.600019        MJC=0.409916        XCJC=0.8
+ FC=0.534975         CJS=0               VJS=0.75            MJS=0.5
+ TR=1e-07            PTF=0               KF=0                AF=1

.model 1N4148 D
+ IS=5.48945e-09      RS=1.13897          N=1.88799           EG=1.16621
+ XTI=0.05            BV=100              IBV=0.0001          CJO=6.19161e-13
+ VJ=0.4              M=0.0531837         FC=0.5              TT=5.1937e-09
+ KF=0                AF=1

.model 1N4004 D
+ IS=76.9p           RS=42m             N=1.45             EG=1.11
+ XTI=3.0            BV=400             IBV=5u             CJO=39.8p
+ VJ=0.7             M=0.333            FC=0.5             TT=4.32u
+ KF=0               AF=1

.MODEL 1N4002 D
+IS=1.22478e-08 RS=0.0414786 N=1.83369 EG=0.6
+XTI=0.05 BV=100 IBV=5e-08 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1e-09
+KF=0 AF=1


.model 1N4730 D Is=6.63E-16 N=1.27 Rs=0.795 Cj0=2.83E-10 Vj=0.75 M=0.33 Fc=0.5 Tt=5.01E-8 Bv=3.851 Ibv=0.064 Af=1 Kf=0
.model 1N4732 D Is=6.71E-16 N=1.27 Rs=0.811 Cj0=2.14E-10 Vj=0.75 M=0.33 Fc=0.5 Tt=5.01E-8 Bv=4.659 Ibv=0.053 Af=1 Kf=0
.model 1N4738 D Is=1.06E-15 N=1.27 Rs=1.41 Cj0=9.28E-11 Vj=0.75 M=0.33 Fc=0.5 Tt=5.01E-8 Bv=8.16 Ibv=0.031 Af=1 Kf=0
.model 1N4743 D IS=1.28E-14 RS=4.63 TT=5.01E-8 CJO=8.81E-11 M=0.33 BV=12.91 IBV=0.019


.model MUR810 D
+ IS=3.30798e-08      RS=0.01             N=1.63483           EG=1.00821
+ XTI=4               BV=100              IBV=0.00005         CJO=3.16981e-10
+ VJ=0.437823         M=0.40704           FC=0.5              TT=4.43935e-08
+ KF=0                AF=1

.MODEL MJE350 pnp
+ IS=2.7544E-13       BF=128              BR=0.0362           ISE=1.9546E-12
+ NE=1.5              ISC=5.24807E-12     NC=2                VAF=100
+ VAR=100             IKF=0.3663          IKR=0.007544        RB=0.0085
+ RE=0.007            RC=0.042            CJE=9.572E-12       VJE=0.748
+ MJE=0.371           FC=0.5              CJC=1.147E-11       VJC=0.541
+ MJC=0.329           TF=8.262E-10        XTB=1.125           EG=0.75
+ XTI=3

.MODEL MJE340 NPN
+ IS=8.010E-13        BF=123.09           VAF=100             IKF=1.0825
+ ISE=4.0538E-11      NE=1.5              BR=0.00419          VAR=100
+ IKR=0.05102         ISC=1.4644E-10      NC=2.0              RE=0.0098
+ RC=2.015            RB=0.00444          CJE=1.58E-09        CJC=1.35E-10
+ TF=1.65E-8          XTF=10              VTF=10              ITF=1
+ TR=1.0E-8           EG=0.64             XTB=0.95

.MODEL MJL21194 NPN
+ IS=9.56205e-11      BF=62.3633          NF=0.858602         VAF=29.6613
+ IKF=9.86004         ISE=7.00007e-12     NE=3.43749          BR=4.96358
+ NR=0.925054         VAR=6.18692         IKR=4.87016         ISC=3.25e-13
+ NC=4                RB=11.0204          IRB=0.1             RBM=0.1
+ RE=0.000675706      RC=0.124974         XTB=0.150823        XTI=1.00001
+ EG=1.11955          CJE=1.70807e-08     VJE=0.4             MJE=0.520397
+ TF=1e-08            XTF=47.3046         VTF=1.88154         ITF=0.560261
+ CJC=5e-10           VJC=0.95            MJC=0.238884        XCJC=0.800727
+ FC=0.8              CJS=0               VJS=0.75            MJS=0.5
+ TR=1e-07            PTF=0               KF=0                AF=1

.MODEL MJL21193 PNP
+ IS=2.37302e-11      BF=92.8585          NF=0.85             VAF=1000
+ IKF=7.81463         ISE=9.34142e-13     NE=1.83168          BR=1.39987
+ NR=0.905395         VAR=421.163         IKR=1.8668          ISC=9.34142e-13
+ NC=3.03125          RB=14.6266          IRB=0.1             RBM=0.149902
+ RE=0.000682292      RC=0.146081         XTB=1.32633         XTI=1.05623
+ EG=1.05             CJE=1.15773e-08     VJE=0.57352         MJE=0.417157
+ TF=1e-08            XTF=1.946           VTF=17401.6         ITF=3.36265
+ CJC=5e-10           VJC=0.95            MJC=0.23891         XCJC=0.999998
+ FC=0.987529         CJS=0               VJS=0.75            MJS=0.5
+ TR=1e-07            PTF=0               KF=0                AF=1

.SUBCKT MUR3020PT 1 2 3
D1			1	2	DMUR3020PT
D2			3	2	DMUR3020PT
.model DMUR3020PT D IS=2.67101e-06 RS=0.01 N=2 EG=1.22186
+ XTI=0.500001 BV=200 IBV=0.00025 CJO=6.22697e-10 VJ=0.4 M=0.42567
+ FC=0.5 TT=1e-09 KF=0 AF=1
.ENDS

.SUBCKT VR10K 1 2 3
R1 1 2 5k
R2 2 3 5k
.ENDS

.model 1N4007 D
+ IS=7.02767e-09      RS=0.0341512        N=1.80803           EG=1.05743
+ XTI=5               BV=1000             IBV=5e-08           CJO=1e-11
+ VJ=0.7              M=0.5               FC=0.5              TT=1e-07
+ KF=0                AF=1

.MODEL MURF1560 D
+IS=1.22946E-07 RS=0.0276435 N=2 EG=1.3
+XTI=4 BV=600 IBV=0.00001 CJO=5.43205E-10
+VJ=0.4 M=0.373483 FC=0.5 TT=7.14134E-08
+KF=0 AF=1

.SUBCKT IRF540 1 2 3
M1			9	7	8	8	MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32 VTO=3.56362 LAMBDA=0.00291031
+ KP=25.0081 CGSO=1.60584e-05 CGDO=4.25919e-07
RS			8	3			0.0317085
D1			3	1			MD
.MODEL MD D IS=1.02194e-10 RS=0.00968022 N=1.21527 BV=100
+ IBV=0.00025 EG=1.2 XTI=3.03885 TT=1e-07 CJO=1.81859e-09
+ VJ=1.1279 M=0.449161 FC=0.5
RDS			3	1			4e+06
RD			9	1			0.0135649
RG			2	7			5.11362
D2			4	5			MD1
.MODEL MD1 D IS=1e-32 N=50 CJO=2.49697e-09 VJ=0.5 M=0.9 FC=1e-08
D3			0	5			MD2
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL			5	10			1
FI2			7	9			VFI2	-1
VFI2		4	0			0
EV16		10	0	9	7	1
CAP			11	10			2.49697e-09
FI1			7	9			VFI1	-1
VFI1		11	6			0
RCAP		6	10			1
D4			0	6			MD3
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS

.SUBCKT IRF9540 1 2 3
M1			9	7	8	8	MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32 VTO=-3.76841 LAMBDA=0 KP=7.07146
+ CGSO=1.11762e-05 CGDO=1e-11
RS			8	3			0.0425484
D1			1	3			MD
.MODEL MD D IS=9.2473e-11 RS=0.00815502 N=1.22578 BV=100
+ IBV=-0.00025 EG=1.2 XTI=4 TT=6.92199e-07 CJO=7.99077e-10
+ VJ=1.46806 M=0.554057 FC=0.499996
RDS			3	1			1e+06
RD			9	1			0.0462318
RG			2	7			7.07132
D2			5	4			MD1
.MODEL MD1 D IS=1e-32 N=50 CJO=2.43656e-09 VJ=1.23601 M=0.748171
+ FC=1e-08
D3			5	0			MD2
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL			5	10			1
FI2			7	9			VFI2	-1
VFI2		4	0			0
EV16		10	0	9	7	1
CAP			11	10			3.41908e-09
FI1			7	9			VFI1	-1
VFI1		11	6			0
RCAP		6	10			1
D4			6	0			MD3
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS

.model 1N4742 D
+ Is=9.67E-15         N=1.27              Rs=4.26             Cj0=9.42E-11
+ Vj=0.75             M=0.33              Fc=0.5              Tt=5.01E-8
+ Bv=11.91            Ibv=0.021           Af=1                Kf=0

.SUBCKT LM7815  1    2    3
QT6          23  10  2   Q_NPN 0.1
QT7          5   4   10  Q_NPN 0.1
QT5          7   6   5   Q_NPN 0.1
QT1          1   9   8   Q_NPN 0.1
QT3          11  8   7   Q_NPN 0.1
QT2          11  13  12  Q_NPN 0.1
QT17         1   15  14  Q_NPN 10
C2           10  23      4P
R16          12  5       500
R12          16  2       12.1K
QT18         17  23  16  Q_NPN 0.1
D1           18  19  	 D_D 
R11          20  21      850
R5           22  3       100
QT14         24  18  2   Q_NPN 0.1
R21          6   2       2.67K
R20          3   6       7.18K
DZ2          25  26      D_5V1 
R19          1   26      16K
R18          14  3       250M
R17          25  14      380
R15          25  15      1.62K
QT16         1   20  15  Q_NPN 1
QT15         2   24  21  Q_PNP 0.1 
*OFF
R14          21  24      4K
C1           27  24      20P
R13          19  2       4K
QT13         24  27  18  Q_NPN 0.1
QT12         20  25  22  Q_NPN 1 
*OFF
QT11         20  28  2   Q_NPN 0.1
*OFF
QT10         20  11  1   Q_PNP 0.1
R10          17  27      16.5K
R9           5   4       1.9K
R8           4   23      26
R7           10  2       1.2K
R6           29  2       1K
QT9          11  11  1   Q_PNP 0.1
QT8          27  16  29  Q_NPN 0.1
QT4          15  6   17  Q_NPN 0.1
DZ1          2   9       D_5V6
R4           1   9       80K
R3           28  2       830
R2           13  28      4.97K
R1           8   13      7K
*
.MODEL D_5V1 D( IS=10F N=1.16 BV=5.1 IBV=0.5M CJ0=1P TT=10p )
.MODEL D_5V6 D( IS=10F N=1.16 BV=5.6 IBV=5U CJ0=1P TT=10p )
.MODEL Q_NPN NPN( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+       TF=10P TR=1N )
.MODEL Q_PNP PNP( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+      TF=10P TR=1N )
.MODEL D_D D( IS=1F N=1.16 CJ0=1P TT=10p )
*
.ENDS LM7815

.SUBCKT LM7915  1    2    3            
DD4           4   5   D_6V3_0 
DD2           6   2   D_3V9_0 
DD1           7   2   D_4V7_0 
DD3           8   3   D_6V3_0 
C2            9  10  5P
C1            2   9  15P
QTU15         10   9   3   Q_PNP_0 1.000
R17          11  12  4.2K
QTU22          3  10  13   Q_NPN_0 3.000
R18           8   5  15.65K
R20          13  14  1K
R19           4  14  75
QTU31         12  11   4   Q_NPN_1 1.000
R16          15   1  160
R24          16   1  1.8K
C3           17   1  10P
QTU30         18  12  15   Q_NPN_1 1.000
QTU29         10  16   1   Q_NPN_1 1.000
R15          19   1  400
QTU28         10  20  19   Q_NPN_1 1.000
R14          21   1  200
QTU27         17  20  21   Q_NPN_1 1.000
R11          22  23  1K
R10          24  25  1K
QTU19         18  27  26   Q_NPN_1 1.000
R9            2  18  7.1K
QTU8          16  18   2   Q_PNP_0 1.000
QTU7          28  18   2   Q_PNP_0 1.000
QTU6          18  18   2   Q_PNP_0 1.000
QTU5          11  29   2   Q_PNP_0 1.000
QTU4          20  29   2   Q_PNP_0 1.000
QTU3           1  29   2   Q_PNP_0 1.000
QTU2           1  29   2   Q_PNP_0 1.000
R13          28   1  400
R12          30   1  400
QTU18         29  29  31   Q_NPN_1 1.000
QTU1          29  29   2   Q_PNP_0 1.000
R6           31  32  6.5K
R7           32  27  5.6K
R8           27  26  950
QTU10         33   6  26   Q_PNP_0 1.000
QTU17         34  35  33   Q_PNP_0 1.000
R5           36   1  2K
QTU24         34  34  36   Q_NPN_1 1.000
R1           37   6  6.3K
R2           37  38  670
R3           38  35  550
QTU9          38  35   6   Q_PNP_0 1.000
R4           39   1  2K
QTU23         35  34  39   Q_NPN_1 1.000
QTU16          1   7  35   Q_PNP_0 1.000
JT1           7   1   1  J_2N3458_N 
QTU14          3  17  23   Q_PNP_0 1.000
QTU13         17  17  23   Q_PNP_0 1.000
QTU12         17  17  25   Q_PNP_0 1.000
QTU11          9  17  25   Q_PNP_0 1.000
QTU32          3  13  14   Q_NPN_2 10.000
QTU26          9  20  28   Q_NPN_1 1.000
QTU25         20  20  30   Q_NPN_1 1.000
QTU21          2  40  22   Q_NPN_1 1.000
QTU20          2  37  24   Q_NPN_1 1.000
R21           2  40  4.29K
R22          40   3  10.63k
R23          14   1  500M

.MODEL J_2N3458_N NJF( VTO=-3.05 BETA=699.53U LAMBDA=6M RD=1 RS=1 
+      CGD=2.81P CGS=2.91P M=227.1M PB=500M IS=114.41F 
+      VTOTC=-2.5M BETATCE=-500M KF=0 AF=1 )
.MODEL D_6V3_0  D( IS=10F N=1.24 BV=6.3 IBV=1M CJ0=1P TT=10p )
.MODEL D_3V9_0  D( IS=10F N=1.24 BV=3.9 IBV=1M CJ0=1P TT=10p )
.MODEL D_4V7_0  D( IS=10F N=1.24 BV=4.7 IBV=1M CJ0=1P TT=10p )
.MODEL Q_PNP_0  PNP( IS=10F NF=1.04 NR=1.04 BF=50 CJC=1P CJE=2P
+      TF=10P TR=1N VAF=45)
.MODEL Q_NPN_0  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_1  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_2  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.ENDS LM7915

.SUBCKT RC4558_IMPL 1 2 3 4 5 6 7 8
X1 3 2 8 4 1 RC4558
X2 5 6 8 4 7 RC4558
.ENDS

* RC4558 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT RC4558   1 2 3 4 5
*
  C1   11 12 2.664E-12
  C2    6  7 20.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .58
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 6.365E6 -6E6 6E6 6E6 -6E6
  GA 6  0 11 12 418.0E-6
  GCM   0  6 10 99 6.705E-9
  IEE   3 10 DC 34.28E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100.0E3
  RC1   4 11 2.652E3
  RC2   4 12 2.652E3
  RE1  13 10 1.122E3
  RE2  14 10 1.122E3
  REE  10 99 5.834E6
  RO1 8  5 125
  RO2 7 99 125
  RP    3  4 24.67E3
  VB    9  0 DC 0
  VC    3 53 DC 2.600
  VE   54  4 DC 2.600
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=121.4)
.ENDS

.SUBCKT NSL32SR3 1 2 3 4
gled 1 2 value={exp(v(1,2)*24.154-46.803)}
elogiled 6 0 value={v(1,2)*24.154-46.803}
rhlog 6 0 1
gcell 3 4 value={v(3,4)*exp(v(6)*(-0.092947*v(6)-0.54364)-4.6619)}
.ENDS

.SUBCKT NSL32SR3JCM 1 2 3 4
elogId 7 0 value={v(1,2)*(v(1,2)*(v(1,2)*3.1752-4.467)+15.496)-34.539}
rdum1 7 0 1
gId 1 2 value={exp(v(7))}
epoly2 8 0 value={v(7)*(-0.10471*v(7)+2.1034)-14.987}
rdum2 8 0 1
gGmVc 3 4 value={v(3,4)*(exp(v(8)))}
.ENDS

.subckt PC817 A K E C
R1			N3	K			2
D1			A	N3			LD
G1			C	B	N3	K	2.83e-4
C1			A	K			18p
Q1			C	B	E	[E]	NP
.model LD D (Is=1e-20 Cjo=18p)
.model NP NPN (Bf=1200 Vaf=140 Ikf=100m Rc=1 Cjc=19p Cje=7p Cjs=7p)
.ends PC817

.model sw1 sw
+ vt=23               vh=0.2              ron=0.001           roff=999k

.model TIP42C PNP
+ IS=5.65618e-10      BF=120.073          NF=1.24004          VAF=90.6071
+ IKF=1.46498         ISE=6.98929e-14     NE=4                BR=2.83268
+ NR=1.30331          VAR=27.1221         IKR=10              ISC=6.98934e-14
+ NC=3.78125          RB=4.71382          IRB=0.234602        RBM=0.12691
+ RE=0.000666374      RC=0.0927424        XTB=3.21145         XTI=1
+ EG=1.05             CJE=1.93221e-10     VJE=0.4             MJE=0.259369
+ TF=9.99163e-09      XTF=4.41941         VTF=6.53488         ITF=0.001
+ CJC=1.0962e-10      VJC=0.731968        MJC=0.23            XCJC=0.799902
+ FC=0.799995         CJS=0               VJS=0.75            MJS=0.5
+ TR=1e-07            PTF=0               KF=0                AF=1

.model 1N4734 D IS="7.32E-16" N="1.27" RS="0.924" CJ0="1.64E-10" VJ="0.75" M="0.33" FC="0.5" TT="5.01E-8" BV="5.561" IBV="0.045" AF="1" KF="0"

.model 10A03 D IS=844n RS=2.06m BV=200 IBV=10.0u CJO=277p  M=0.333 N=2.06 TT=4.32u

.model LED_yellow D Is="1e-10A" N="4.45" Cj0="3pF" M="0.5" Vj="0.7V" Fc="0.5" Isr="0.0" Nr="2.0" Rs="0.1ohm" Tt="4.0us" Temp="26.85" Kf="0.0" Af="1.0" Bv="5" Ibv="10uA" Xti="3.0" Eg="1.11" Trs="0.0" Ttt1="0.0" Ttt2="0.0" Tm1="0.0" Tm2="0.0" Tnom="26.85" Area="1.0"

.model TIP41C NPN IS=7.55826e-11 BF=260.542 NF=1.11221 VAF=100 IKF=0.526814 ISE=1e-08 NE=2.18072 BR=26.0542 NR=1.5 VAR=1000 IKR=3.54059 ISC=1e-08 NC=1.63849 RB=4.56157 IRB=0.1 RBM=0.1 RE=0.0162111 RC=0.0810556 XTB=0.1 XTI=1 EG=1.206 CJE=1.93296e-10 VJE=0.4 MJE=0.259503 TF=1e-08 XTF=4.06972 VTF=7.1157 ITF=0.001 CJC=1.09657e-10 VJC=0.730921 MJC=0.23 XCJC=0.803085 FC=0.8 CJS=0 VJS=0.75 MJS=0.5 TR=9.01013e-08 PTF=0 KF=0 AF=1





